US06894195B2
In a further aspect of the invention the 4-methyl-2,3,5,6-tetrafluorobenzyl alcohol is reacted with cis-Z 3-(2-chloro-1,1,1-trifluoro-2-propenyl)-2,2-dimethylcyclopropane carbonyl chloride to give tefluthrin.

reactant | 4-methyl-2,3,5,6-tetrafluorobenzyl alcohol | CC1=C(C(=C(CO)C(=C1F)F)F)F | C8H6F4O
reactant | cis-Z 3-(2-chloro-1,1,1-trifluoro-2-propenyl)-2,2-dimethylcyclopropane carbonyl chloride | Cl\C(\C(F)(F)F)=C/[C@H]1C([C@H]1C(=O)Cl)(C)C | C9H9Cl2F3O
product | tefluthrin | CC=1C(=C(C(=C(C1F)F)COC(=O)[C@@H]2[C@@H](C2(C)C)/C=C(/C(F)(F)F)\Cl)F)F | C17H14ClF7O2
